US08748624B2
STEP C: ethyl 3-(5-(2-(((4′-chloro-2′-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate
Ethyl 3-(5-(2-(((4-iodophenyl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate (150 mg, 0.25 mmol), (4-chloro-2-methylphenyl)boronic acid (51 mg, 0.30 mmol), Pd(dppf)Cl2 (21 mg, 0.03 mmol), and K2CO3 (69 mg, 0.50 mmol) were dissolved in 1,4-dioxane (1.6 mL) and water (0.4 mL) and the resulting mixture was heated to 80° C. After 16 h the resulting mixture was cooled to room temperature, diluted with EtOAc, washed with water and brine, dried (Na2SO4), and dry packed onto silica gel. Column chromatography yielded the title compound.

reactant | Ethyl 3-(5-(2-(((4-iodophenyl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate | 0.25 mmol, 150 mg | IC1=CC=C(C=C1)NCC1=C(C=C(C=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C25H23F3IN3O3
reactant | (4-chloro-2-methylphenyl)boronic acid | 0.30 mmol, 51 mg | ClC1=CC(=C(C=C1)B(O)O)C | C7H8BClO2
reactant | K2CO3 | 0.50 mmol, 69 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 0.4 mL | O | H2O
solvent | 1,4-dioxane | 1.6 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.03 mmol, 21 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(5-(2-(((4′-chloro-2′-methyl-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate | ClC1=CC(=C(C=C1)C1=CC=C(C=C1)NCC1=C(C=C(C=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C | C32H29ClF3N3O3
